US07476666B2
Step 3: Methyl 3-benzyloxy-5-methyl-4-oxo-7-pyridin-3-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of N-methyl-N-[2-hydroxy-2-(pyridin-3-yl)ethyl]-4-benzyloxy-3-methoxycarbonyl-1H-pyrazole-5-carboxamide (1.0 g, 2.44 mmol) and triphenylphosphine (2.24 g, 8.53 mmol) in THF (30 mL) was added diethyl azodicarboxylate (1.55 mL, 8.53 mmol) dropwise over a period of 5 minutes. The mixture was stirred for 2 hours. The solvent was removed in vacuo and the residue was purified by preparative HPLC (Waters prep LC 4000 System using a Waters Nova Pak column (3 100×40 mm I.D. cartridges, C18, 6 μM pore size) eluting with 95-5% water (0.10% TFA)/acetonitrile (0.10% TFA) at 60 mL/minute). Appropriate fractions were combined and the solvents were removed under reduced pressure to give a gum. 1H NMR (400 MHz, d6-DMSO) δ 8.66 (s, 1H), 8.50 (s, 1H), 7.5-7.6 (m, 4H), 7.3-7.4 (m, 3H), 5.96 (t, J=4.4 Hz, 1H), 5.28 (AB quartet, J=10.9 Hz, 2H), 4.20 (dd, J=13, 4.2 Hz, 1H), 4.00 (dd, J=13, 4.4 Hz, 1H), 3.76 (s, 3H), 2.97 (s, 3H); ES MS (M+1)=393.

reactant | N-methyl-N-[2-hydroxy-2-(pyridin-3-yl)ethyl]-4-benzyloxy-3-methoxycarbonyl-1H-pyrazole-5-carboxamide | 2.44 mmol, 1.0 g | CN(C(=O)C1=C(C(=NN1)C(=O)OC)OCC1=CC=CC=C1)CC(C=1C=NC=CC1)O | C21H22N4O5
reactant | triphenylphosphine | 8.53 mmol, 2.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.53 mmol, 1.55 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Methyl 3-benzyloxy-5-methyl-4-oxo-7-pyridin-3-yl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C=2C=NC=CC2)C)=O)C(=O)OC | C21H20N4O4
